US05665754
trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-hydroxymethyl-1-(phenylmethyl)pyrrolidine (200 mg, 0.53 mmol) was dissolved in 5 mL of 4% HCO2H:methanol. While stirring at room temperature, 10% Pd/C (30 mg) was added. After 4 hr the reaction was diluted with methanol. Filtration through Celite followed by concentration under reduced pressure yielded an oil residue. To this residue dissolved in 2 mL of CH2Cl2 at 0° C. was added 4-dimethylaminopyridine (64 mg, 0.5 mmol), followed by di-t-butyl-dicarbonate (126 mg, 0.58 mmol). The bath was removed, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was then diluted with CH2Cl2, washed with 1M H3PO4, dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (1:1, hexanes:ethyl acetate) provided 3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(hydroxymethyl)pyrrolidine as a colorless oil (130 mg, 63%). Anal. Calcd for C22H33NO5 : C, 67.49; H, 8.49; N, 3.58. Found: C, 67.23; H, 8.58; N, 3.49.

reactant | trans-3-(3-Cyclopentoxy-4-methoxyphenyl)-4-hydroxymethyl-1-(phenylmethyl)pyrrolidine | 0.53 mmol, 200 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1CO)CC1=CC=CC=C1 | C24H31NO3
reactant | di-t-butyl-dicarbonate | 0.58 mmol, 126 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCO2H | 5 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.5 mmol, 64 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-4-(hydroxymethyl)pyrrolidine | 130 mg, 63% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CN(CC1CO)C(=O)OC(C)(C)C | C22H33NO5
